US09216973B2
5-(3,5-Dichloro-phenyl)-5-methyl-4,5-dihydro-isoxazole-3-carboxylic acid ethyl ester
A solution of ethyl chlorooximidoacetate (9.0 g, 59.1 mmol) in ethylacetate (30 ml) was added at ambient temperature with a syringe pump over a period of 40 h to a suspension of 1,3-dichloro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene (prepared according to WO 2005/085216) (9.5 g, 39.4 mmol) and sodium hydrogen carbonate (15.9 g, 189 mmol) in ethylacetate (85 ml). The reaction mixture was diluted with ethylacetate and washed with water. The organic phase was separated dried over sodium sulfate and concentrated. The residue was purified by chromatography over silica (cyclohexane/ethylacetate; 4/1) to give 8.9 of a yellow oil. 1H-NMR (CDCl3, 400 MHz): 7.45 (m, 3H), 4.49 (q, 2H), 3.96 (d, 1H), 3.59 (d, 1H), 1.40 (t, 3H).

reactant | ethyl chlorooximidoacetate | 59.1 mmol, 9.0 g | CCOC(=O)/C(=N\O)/Cl | C4H6ClNO3
reactant | 1,3-dichloro-5-(3,3,3-trifluoroprop-1-en-2-yl)benzene | 39.4 mmol, 9.5 g | ClC1=CC(=CC(=C1)C(=C)C(F)(F)F)Cl | C9H5Cl2F3
reactant | sodium hydrogen carbonate | 189 mmol, 15.9 g | C(O)([O-])=O.[Na+]
solvent | ethylacetate | 30 ml | C(C)OC(C)=O | C4H8O2
solvent | ethylacetate | 85 ml | C(C)OC(C)=O | C4H8O2
product | 5-(3,5-Dichloro-phenyl)-5-methyl-4,5-dihydro-isoxazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NOC(C1)(C)C1=CC(=CC(=C1)Cl)Cl | C13H13Cl2NO3
